2148-10-09 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2148-10-8**] 05:03 PM
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2148-10-8**] 08:26 PM
   Vancomycin - [**2148-10-8**] 10:26 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-8**] 10:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 110 (107 - 124) bpm
   BP: 90/58(67) {72/40(44) - 90/65(71)} mmHg
   RR: 24 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                  2,450 mL
                  PO:
                  TF:
   IVF:
                                                                  2,250 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,450 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: No(t) Normal), (S2: Normal),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic), dull S1
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed,
   Labs / Radiology
   383 K/uL
   8.4 g/dL
   116 mg/dL
   4.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   65 mg/dL
   93 mEq/L
   138 mEq/L
   28.4 %
   11.9 K/uL
         [image002.jpg]
                             [**2148-10-4**]  07:59 PM
                             [**2148-10-4**]  10:55 PM
                             [**2148-10-5**]  03:15 AM
                             [**2148-10-5**]  03:14 PM
                             [**2148-10-6**]  03:59 AM
                            [**2148-10-9**]  03:05 AM
   WBC
   7.2
   8.2
   9.1
   11.9
   Hct
   25.3
   25.8
   24.6
   27.0
   30.5
   28.4
   Plt
   [**Telephone/Fax (3) 9923**]83
   Cr
   3.9
   4.3
   5.3
   4.4
   TropT
   0.62
   0.51
   0.43
   0.46
   Glucose
   125
   140
   108
   116
   Other labs: PT / PTT / INR:16.1/31.6/1.4, CK / CKMB /
   Troponin-T:20/4/0.46, ALT / AST:20/15, Alk Phos / T Bili:114/3.5,
   Lactic Acid:3.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ASCITES
 IMPAIRED SKIN INTEGRITY
 DIARRHEA
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
   63 yo F with PCKD s/p bilateral nephrectomies on HD, polycystic liver
   dz, and high resting LVOT gradient, currently being treated for MRSA
   bacterimia and peritonitis who became hypotensive/tachycardic in HD.
   .
   # Hypotension/tachycardia/sespis:  The most likely etiology of her
   hypotension in the setting of an ongoing infection seems to be sepsis
   exacerbated by her intrinsic pre-load dependence secondary to a high
   LVOT gradient from assymmetric septal hypertrophy.  It does not seem
   that LV outflow tract obstruction is the primary process resulting in
   hypotension, but it does have implications in how her hypotension
   should be managed. Strongly favor aggressive fluid resucitation
   (although it may lead to intubation in [**Last Name (un) 9917**] anuric pt) over pressor
   support as her cardiac output should respond significantly to increased
   end diastolic volumes.  If pressors necessary would strongly favor neo
   over levophed to increase filling time and not increase LVOT gradient
   with increased inotropy.  Possiblity of adding gentamicin to her
   current Abx discussed with ID who recommended holding off for now--will
   reconsider if clinical status declines overnight.
   -- Broadened gram negative covg with cefepime instead of ceftriaxone
   -- Last vanco trough 17. Gave another dose of 1g  per pharmacy's
   recommendation; check level this am
   -- consider more Albumin
   -- IVF to miantain HR ~110 and MAP above 60; neo if pressor necessary
   --US of right arm graft to determine if source of infxn
   .
   # MRSA bacterimia: as above, continue vancomycin. Surveillance
   cultures.
   # MRSA peritonitis: Seeded from the blood? Seems to be an odd organism
   for SBP as the primary process. S/p second diagnositc paracentesis this
   am. Holding on therapeutic tap given septic physiology/ hypotension.
   -- vancomycin as above, f/u tap, albumin as above
   # ESLD: Pt is on the transplant list. Synthetic function seems
   relatively intact. Hepatology consulting.
   # Elevated troponin/ new wall mtn abnormaility: Pt may have missed an
   MI at some point since her last echo in [**Month (only) **].  This echo is done
   in the setting of sepsis at a much higher heart rate and may reflect
   some demand ischemia in the hypokinetic region.  Low CK argues against
   infarct. Septal q-waves and small apical aneurysm argue in favor of
   missed infarct.
   -- cardiology recs
   -- no indication for treatent of ACS, troponin attributable to renal
   failure
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  full confirmed
   # CONTACT:  husband
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-10-8**] 05:03 PM
   18 Gauge - [**2148-10-8**] 07:20 PM
   20 Gauge - [**2148-10-8**] 07:33 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-10-09 08:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - IVF 2.7 liters since hypotension/tachycardia started
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2148-10-8**] 08:26 PM
   Vancomycin - [**2148-10-8**] 10:26 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-9**] 07:54 AM
   Omeprazole (Prilosec) - [**2148-10-9**] 07:54 AM
   Other medications:
   Cefepime, Atorvastatin, Aspirin, Vanco per HD, SQ heparin, Midodrine,
   Fludrocortisone, Synthroid, Omeprazole, Reglan, Sevelemer, Nephrocaps,
   Albumin x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-9**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 113 (107 - 124) bpm
   BP: 96/63(71) {72/40(44) - 96/65(71)} mmHg
   RR: 24 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.8 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                  2,450 mL
                                                                     30 mL
   PO:
                  30 mL
   TF:
   IVF:
                                                                  2,250 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,450 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), LLSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Hepatomegaly
   Extremities Lower extremity edema: 1+ R>L, no tenderness or fluctuance
   over fistula
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, R sided hemiparalysis
   Labs / Radiology
   8.4 g/dL
   383 K/uL
   116 mg/dL
   4.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   65 mg/dL
   93 mEq/L
   138 mEq/L
   28.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2148-10-4**]  07:59 PM
                             [**2148-10-4**]  10:55 PM
                             [**2148-10-5**]  03:15 AM
                             [**2148-10-5**]  03:14 PM
                             [**2148-10-6**]  03:59 AM
                            [**2148-10-9**]  03:05 AM
   WBC
   7.2
   8.2
   9.1
   11.9
   Hct
   25.3
   25.8
   24.6
   27.0
   30.5
   28.4
   Plt
   [**Telephone/Fax (3) 9923**]83
   Cr
   3.9
   4.3
   5.3
   4.4
   TropT
   0.62
   0.51
   0.43
   0.46
   Glucose
   125
   140
   108
   116
   Other labs: PT / PTT / INR:16.1/31.6/1.4, CK / CKMB /
   Troponin-T:20/4/0.46, ALT / AST:20/15, Alk Phos / T Bili:114/3.5,
   Lactic Acid:3.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Peritoneal fluid: WBC 2225 (down from 9000
   on [**10-4**]), RBC 275, diff pending.
   Imaging: No new imaging.
   Microbiology: Blood/peritoneal fluid cultures pending.
   ECG: EKG - new early septal Q waves
   Assessment and Plan
   63 y/o female with h/o PCKD s/p bilateral nephrectomy with liver cysts
   resulting in ESLD on transplant list and ruptured [**Doctor Last Name **] aneurysm s/p
   clipping with residual R sided hemiparesis admitted [**10-4**] from HD to
   MICU [**Location (un) **] with hypotension and MRSA bacteremia/peritonitis.  Tx with
   vanc/CTX.  Called out [**10-6**].  On floor [**10-8**] developed recurrent, fluid
   refractory hypotension and tachycardia.  Transferred to MICU green.  Of
   note, the patient had a TTE with new apical hypokinesis with aneurysm
   formation and a worsening intraventricular gradient.
    # Hypotension/tachycardia: Likely secondary to sepsis - possibly from
   partially treated MRSA bacteremia or another microorganism.  Per
   primary physician, [**Name10 (NameIs) 3433**] SBP is in 80s.
   - Continue vanc/cefepime, consider gent if clinically worsens
   - IVF to maintain MAP > 60 and HR < 115
   - F/u cultures, recheck daily surveillance blood cultures
   - Recheck lactate
   - U/S fistula to r/o fluid collection/clot (stopped working day PTA)
   # TTE: Echo with new apical hypokinesis with aneurysm formation and a
   worsening intraventricular gradient.  Concerning for recent MI that
   went unrecognized vs demand ischemia from tachycardia/sepsis
   physiology.  Fluid dependent given obstructive physiology.
   - IVF for hypotension
   - BB when BP allows
   - Continue asa and lipitor
   - Repeat TTE when sepsis physiology resolved
   # ESLD: Synthetic function intact.  Now with MRSA SBP.  On transplant
   list.
   - Continue midodrine, albumin
   - Improved WBC count on peritoneal fluid
   - Hepatology following
   - Routine therapeutic taps
   # Hypoxia: Likely from volume overload due to missing HD.
   - Stable on 1L. [**Month (only) 8**] need to increase with volume resuscitation.
   # ESRD: Overdue for HD, but held [**1-1**] hypotension.
   - Renal following
   - Consider taking off less fluid in future as appears to be very fluid
   dependent from a cardiac standpoint.
   - Would like to see how her BP tolerates HD before transferring back to
   floor
   ICU Care
   Nutrition:
   Comments: Full diet.
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-10-8**] 05:03 PM
   18 Gauge - [**2148-10-8**] 07:20 PM
   20 Gauge - [**2148-10-8**] 07:33 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes

2148-10-10 06:37:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2148-10-9**] 09:46 AM
 ULTRASOUND - At [**2148-10-9**] 10:00 AM
   rue
   DVT in RUE AV fistuala -[**Doctor Last Name 47**] didn't want anything done about this
   Got dialysis: Didn't remove fluid
   -Vanc level insane (50s) -d/c-ed it temporarily
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2148-10-8**] 10:26 PM
   Cefipime - [**2148-10-9**] 08:19 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2148-10-9**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2148-10-9**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 116 (102 - 118) bpm
   BP: 83/49(57) {77/44(55) - 98/63(71)} mmHg
   RR: 29 (20 - 42) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.8 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,434 mL
                                                                    165 mL
   PO:
                                                                  1,230 mL
                  TF:
                                                                    154 mL
                                                                    165 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,434 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: No(t) Normal), (S2: Normal),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic), dull S1
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed,
   Labs / Radiology
   384 K/uL
   8.1 g/dL
   99 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   45 mg/dL
   95 mEq/L
   138 mEq/L
   27.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2148-10-4**]  07:59 PM
                             [**2148-10-4**]  10:55 PM
                             [**2148-10-5**]  03:15 AM
                             [**2148-10-5**]  03:14 PM
                             [**2148-10-6**]  03:59 AM
                            [**2148-10-9**]  03:05 AM
                            [**2148-10-10**]  04:38 AM
   WBC
   7.2
   8.2
   9.1
   11.9
   9.9
   Hct
   25.3
   25.8
   24.6
   27.0
   30.5
   28.4
   27.8
   Plt
   [**Telephone/Fax (3) 9923**]83
   384
   Cr
   3.9
   4.3
   5.3
   4.4
   3.6
   TropT
   0.62
   0.51
   0.43
   0.46
   Glucose
   125
   140
   108
   116
   99
   Other labs: PT / PTT / INR:17.1/30.4/1.5, CK / CKMB /
   Troponin-T:20/4/0.46, ALT / AST:17/14, Alk Phos / T Bili:128/3.3,
   Lactic Acid:2.6 mmol/L, Albumin:3.8 g/dL, LDH:157 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ASCITES
 IMPAIRED SKIN INTEGRITY
 DIARRHEA
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
   63 yo F with PCKD s/p bilateral nephrectomies on HD, polycystic liver
   dz, and high resting LVOT gradient, currently being treated for MRSA
   bacterimia and peritonitis who became hypotensive/tachycardic in HD.
   .
   # Hypotension/tachycardia/sespis:  The most likely etiology of her
   hypotension in the setting of an ongoing infection seems to be sepsis
   exacerbated by her intrinsic pre-load dependence secondary to a high
   LVOT gradient from assymmetric septal hypertrophy.  It does not seem
   that LV outflow tract obstruction is the primary process resulting in
   hypotension, but it does have implications in how her hypotension
   should be managed. Strongly favor aggressive fluid resucitation
   (although it may lead to intubation in [**Last Name (un) 9917**] anuric pt) over pressor
   support as her cardiac output should respond significantly to increased
   end diastolic volumes.  If pressors necessary would strongly favor neo
   over levophed to increase filling time and not increase LVOT gradient
   with increased inotropy.  Possiblity of adding gentamicin to her
   current Abx discussed with ID who recommended holding off for now--will
   reconsider if clinical status declines overnight.
   -- Broadened gram negative covg with cefepime instead of ceftriaxone
   -- Last vanco trough 17. Gave another dose of 1g  per pharmacy's
   recommendation; check level this am
   -- consider more Albumin
   -- IVF to miantain HR ~110 and MAP above 60; neo if pressor necessary
   --US of right arm graft to determine if source of infxn
   .
   # MRSA bacterimia: as above, continue vancomycin. Surveillance
   cultures.
   # MRSA peritonitis: Seeded from the blood? Seems to be an odd organism
   for SBP as the primary process. S/p second diagnositc paracentesis this
   am. Holding on therapeutic tap given septic physiology/ hypotension.
   -- vancomycin as above, f/u tap, albumin as above
   # ESLD: Pt is on the transplant list. Synthetic function seems
   relatively intact. Hepatology consulting.
   # Elevated troponin/ new wall mtn abnormaility: Pt may have missed an
   MI at some point since her last echo in [**Month (only) **].  This echo is done
   in the setting of sepsis at a much higher heart rate and may reflect
   some demand ischemia in the hypokinetic region.  Low CK argues against
   infarct. Septal q-waves and small apical aneurysm argue in favor of
   missed infarct.
   -- cardiology recs
   -- no indication for treatent of ACS, troponin attributable to renal
   failure
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  full confirmed
   # CONTACT:  husband
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2148-10-9**] 05:51 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-10-8**] 05:03 PM
   18 Gauge - [**2148-10-8**] 07:20 PM
   20 Gauge - [**2148-10-8**] 07:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: